US08685970B2
A mixture of 2-chloro-8-nitroquinoline (0.580 g, 2.78 mmol), 3-fluoro-5-(trifluoromethyl)phenylboronic acid (0.675 g, 3.22 mmol), K3PO4 (1.1 g, 5.2 mmol), and Pd(dppf)Cl2.CH2Cl2 (0.10 g, 0.122 mmol) in DMF (3 mL) and water (1 mL) was microwave heated (125° C.×1 Hour). The mixture was filtered over celite and the celite cake was washed with ethyl acetate (30 mL). The filtrate was combined with 60 mL aqueous saturated sodium bicarbonate solution and the mixture was extracted with ethyl acetate (3×20 mL). The organic layers were combined, washed with brine, dried (MgSO4), and concentrated to yield 2-(3-fluoro-5-(trifluoromethyl)phenyl)-8-nitroquinoline. The product was used without further purification.

reactant | 2-chloro-8-nitroquinoline | 2.78 mmol, 0.580 g | ClC1=NC2=C(C=CC=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | 3-fluoro-5-(trifluoromethyl)phenylboronic acid | 3.22 mmol, 0.675 g | FC=1C=C(C=C(C1)C(F)(F)F)B(O)O | C7H5BF4O2
reactant | K3PO4 | 5.2 mmol, 1.1 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | CH2Cl2 | 0.122 mmol, 0.10 g | C(Cl)Cl | CH2Cl2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(3-fluoro-5-(trifluoromethyl)phenyl)-8-nitroquinoline | FC=1C=C(C=C(C1)C(F)(F)F)C1=NC2=C(C=CC=C2C=C1)[N+](=O)[O-] | C16H8F4N2O2
